US06548506B2
Ethyl 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate was prepared under the conditions of Example 3, but from 1.8 g of ethyl 1-cyclopropyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylate and 4.8 g of 4-furfurylpiperazine hydrochloride in 30 cm3 of dimethyl sulphoxide and 5.2 cm3 of triethylamine. 1.5 g of ethyl 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate were obtained in the form of a yellow-brown solid melting at about 125-128° C., which solid was used without additional purification in the subsequent stages.

reactant | ethyl 1-cyclopropyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo-[b][1,8]naphthyridine-3-carboxylate | 1.8 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
reactant | 4-furfurylpiperazine hydrochloride | 4.8 g | Cl.C(C1=CC=CO1)N1CCNCC1
solvent | dimethyl sulphoxide | 30 cm3 | CS(=O)C | C2H6OS
solvent | triethylamine | 5.2 cm3 | C(C)N(CC)CC | C6H15N
product | ethyl 1-cyclopropyl-7,9-difluoro-8-(4-furfurylpiperazin-1-yl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylate | 1.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)N3CCN(CC3)CC3=CC=CO3)F)=O)C(=O)OCC | C27H26F2N4O4
